US05232964
1. Allyltriethylammonium Bromide
A mixture of 60 grams of methanol, 60.23 grams of triethylamine and 60.72 grams of allyl bromide was prepared. The mixture was stirred for 5 minutes before refluxing. The mixture was allowed to reflux for 30 minutes before 12.0 grams of allyl bromide was added.

reactant | methanol | 60 grams | CO | CH4O
reactant | allyl bromide | 60.72 grams | C(C=C)Br | C3H5Br
reactant | allyl bromide | 12.0 grams | C(C=C)Br | C3H5Br
reactant | triethylamine | 60.23 grams | C(C)N(CC)CC | C6H15N
product | Allyltriethylammonium Bromide | [Br-].C(C=C)[N+](CC)(CC)CC | InChI=1S/C9H20N.BrH/c1-5-9-10(6-2,7-3)8-4;/h5H,1,6-9H2,2-4H3;1H/q+1;/p-1
